US08349880B2
Step AAO (1): 2-Phenylacetic acid (2.19 g, 16.1 mmol) was deprotonated with NaHMDS 2.0 M in THF (18.1 mL, 36.2 mmol) and reacted with 1-chloro-4-iodobutane (3.87 g, 17.7 mmol) using a procedure analogous to Step AC (1) to afford 6-chloro-2-phenylhexanoic acid (3.57 g, quantitative yield) as a pale yellow oil. LC-MS (M−H)− 225.1. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.25-7.39 (5 H, m), 3.58 (1 H, t, J=7.6 Hz), 3.52 (2 H, t, J=6.7 Hz), 2.12 (1 H, dddd, J=13.4, 10.5, 7.8, 5.5 Hz), 1.73-1.90 (3 H, m), 1.34-1.54 (2 H, m).

reactant | 2-Phenylacetic acid | 16.1 mmol, 2.19 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | NaHMDS | 2.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 36.2 mmol, 18.1 mL | C1CCOC1 | C4H8O
reactant | 1-chloro-4-iodobutane | 17.7 mmol, 3.87 g | ClCCCCI | C4H8ClI
product | 6-chloro-2-phenylhexanoic acid | 3.57 g, quantitative yield | ClCCCCC(C(=O)O)C1=CC=CC=C1 | C12H15ClO2
